US05750564
A solution of 6-hydroxy,-2-hydroxymethyl-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran, (3.14 g, 46.1 mmol), prepared by the reduction of the commercially available acid (Aldrich) using lithium aluminum hydride, and t-butyldimethylsilyl chloride (3.06 g, 20.3 mmol) in dimethylformamide (10 mL) was stirred at room temperature for 23 hours. The reaction mixture was diluted with water (200 mL) and the product extracted with ethyl acetate (4×50 mL). The combined organic extracts were dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel with a gradient elution of hexane/ethyl acetate to give 5.38 g (83.8% yield) of 2-(t-butyldimethylsilyloxymethyl)-6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran as an oil.

reactant | 2-hydroxymethyl-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran | 46.1 mmol, 3.14 g | OCC1(CCC2=C(O1)C(=C(C=C2C)C)C)C | C14H20O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | t-butyldimethylsilyl chloride | 20.3 mmol, 3.06 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | 2-(t-butyldimethylsilyloxymethyl)-6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran | 5.38 g, 83.8% yield | [Si](C)(C)(C(C)(C)C)OCC1(CCC2=C(O1)C(=C(C(=C2C)O)C)C)C | C20H34O3Si
